US08461167B2
Potential Synthesis of 4-methyl-N-[4-(piperazin-1-ylmethyl)-3-(trifluoromethyl)phenyl]-3-(pyrazin-2-ylethynyl)benzamide
The title compound can be synthesized from 2-ethynylpyrazine and tert-butyl 4-(4-(3-iodo-4-methylbenzamido)-2-(trifluoromethyl)benzyl)piperazine-1-carboxylate in a manner similar to that described for Example 1. Following deprotection using saturated MeOH/HCl (g), the product can be obtained as an HCl salt. 2-ethynylpyrazine is prepared from 2-bromopyrazine and ethynyltrimethylsilane according to the 2 steps procedure described in Example 1.

reactant | 2-ethynylpyrazine | C(#C)C1=NC=CN=C1 | C6H4N2
reactant | tert-butyl 4-(4-(3-iodo-4-methylbenzamido)-2-(trifluoromethyl)benzyl)piperazine-1-carboxylate | IC=1C=C(C(=O)NC2=CC(=C(CN3CCN(CC3)C(=O)OC(C)(C)C)C=C2)C(F)(F)F)C=CC1C | C25H29F3IN3O3
product | 4-methyl-N-[4-(piperazin-1-ylmethyl)-3-(trifluoromethyl)phenyl]-3-(pyrazin-2-ylethynyl)benzamide | CC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCNCC2)C(F)(F)F)C=C1)C#CC1=NC=CN=C1 | C26H24F3N5O
